US09284296B2
Over a solution of 4-Methoxy-[2,2′]bipyridinyl-6-carbonitrile (5.0 g, 23.7 mmol) in tetrahydrofuran (25 mL), a 1.0 M solution of LiAlH4 in tetrahydrofuran (75 mL, 75.0 mmol) was slowly added and the reaction mixture was stirred for 2 h at 25° C. The reaction was then cooled to 0° C., water (2.5 mL) followed by a 15% aqueous solution of NaOH (2.5 mL) were slowly added and stirred at 25° C. for 16 hours. The reaction mixture was filtered through celite, washed with tetrahydrofuran and the organic solvent removed under reduced pressure. The aqueous residue was extracted with dichloromethane, the organic solvent dried with sodium sulphate anhydrous, filtered and removed under reduced pressure to afford C-(4-Methoxy-[2,2′]bipyridinyl-6-yl)-methylamine as an orange oil (3.5 g, aprox 68%) that was used in the next step without purification.

reactant | 4-Methoxy-[2,2′]bipyridinyl-6-carbonitrile | 23.7 mmol, 5.0 g | COC1=CC(=NC(=C1)C#N)C1=NC=CC=C1 | C12H9N3O
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 2.5 mL | O | H2O
reactant | NaOH | 2.5 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75.0 mmol, 75 mL | O1CCCC1 | C4H8O
product | C-(4-Methoxy-[2,2′]bipyridinyl-6-yl)-methylamine | COC1=CC(=NC(=C1)CN)C1=NC=CC=C1 | C12H13N3O
